Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Ped struck by car
 
Major Surgical or Invasive Procedure:
___: Open reduction internal fixation, left tibia.
___: Open reduction internal fixation, right medial 
malleolus.

 
History of Present Illness:
___ year old female with left tibia fracture and right ankle 
fracture from being hit by car both requiring surgical 
management.
 
Past Medical History:
Depression
 
Social History:
___
Family History:
n/a
 
Physical Exam:
NAD, AOx3

RUE Abrasions on right hand, congenital deformity of right small
finger
Left shoulder moderate pain with ROM
BUE
Arms and forearms are soft
No pain with passive motion
R M U SITLT
No motor weakness appreciated
2+ radial pulses

RLE abrasions on toes
Tender diffusely posterior calf with ecchymosis, no deformity
Tender on medial ankle
Thighs and legs are soft
No pain with passive motion
Saph Sural DPN SPN MPN LPN SITLT
___ fire
1+ DP pulses

LLE abrasions on toes
Mid tibia ecchymosis with deformity,
Thighs and legs are soft
Calf tender to palpation but no increased pain with passive
motion
Saph Sural DPN SPN MPN LPN SITLT
___ fire
1+ DP pulses

 
Pertinent Results:
___ 06:20PM BLOOD Hgb-13.2 calcHCT-40
___ 06:20PM BLOOD Glucose-128* Lactate-3.1* Na-142 K-4.1 
Cl-107 calHCO3-19*
___ 06:10PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 06:10PM BLOOD HCG-<5
___ 06:25AM BLOOD Calcium-7.7* Phos-3.1 Mg-1.5*
___ 06:10PM BLOOD Lipase-38
___ 06:10PM BLOOD UreaN-11 Creat-0.8
___ 06:25AM BLOOD Glucose-121* UreaN-3* Creat-0.6 Na-135 
K-3.5 Cl-102 HCO3-26 AnGap-11
___ 06:10PM BLOOD ___ 06:10PM BLOOD ___ PTT-29.0 ___
 
Brief Hospital Course:
Ms. ___ was admitted to the Orthopedic service on 
___ after being hit by a car, which resulted in a left 
mid-shaft tibia fracture, left mid-shaft and proximal fibula 
fracture, right medial malleolus fracture and cervical neck 
pain. On ___ she underwent open reduction internal fixation 
of both the left tibia and right ankle without complication.  In 
the recovery room she was transfused two units of packed red 
blood cells for post operative blood loss anemia then 
transferred to the floor in stable condition. There were no 
overnight events. While in the hospital she had good pain 
management and worked with physical therapy.  The remainder of 
her hospital course was uneventful and she is being discharge to 
rehab on ___ in stable condition.
 
Medications on Admission:
Sertraline
 
Discharge Medications:
1. enoxaparin 40 mg/0.4 mL Syringe Sig: One (1) syringe 
Subcutaneous QPM (once a day (in the evening)) for 4 weeks.  
2. docusate sodium 50 mg/5 mL Liquid Sig: One (1)  PO BID (2 
times a day).  
3. senna 8.8 mg/5 mL Syrup Sig: One (1) Tablet PO BID (2 times a 
day).  
4. sertraline 20 mg/mL Concentrate Sig: One (1) 10 mg PO once a 
day.  
5. oxycodone 5 mg/5 mL Solution Sig: ___ ___ PO Q4H (every 4 
hours) as needed for pain.  
6. acetaminophen 650 mg/20.3 mL Solution Sig: One (1) ___ PO Q6H 
(every 6 hours).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
1. Left mid-shaft tibia fracture.
2. Left mid-shaft and proximal fibula fracture.
3. Right medial malleolus fractue.
4. Cervical neck pain.
5. Post operative blood loss anemia.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Wound Care: 
-Keep Incisions dry. 
-Do not soak the incision in a bath or pool.

Activity: 
-Continue to be full weight bearing on your left leg.  
-Continue to be touch down weight bearing on your right leg.

Other Instructions
- Resume your regular diet. 
- Avoid nicotine products to optimize healing. 

- Resume your home medications. Take all medications as 
instructed. 

- Continue taking the Lovenox to prevent blood clots.

-You have also been given Additional Medications to control your 
pain.  Please allow 72 hours for refill of narcotic 
prescriptions, so plan ahead.  You can either have them mailed 
to your home or pick them up at the clinic located on ___. 
 We are not allowed to call in narcotic (oxycontin, oxycodone, 
percocet) prescriptions to the pharmacy.   In addition, we are 
only allowed to write for pain medications for 90 days from the 
date of surgery.

- Narcotic pain medication may cause drowsiness.  Do not drink 
alcohol while taking narcotic medications.  Do not operate any 
motor vehicle or machinery while taking narcotic pain 
medications.  Taking more than recommended may cause serious 
breathing problems.

 

If you have questions, concerns or experience any of the below 
danger signs then please call your doctor at ___ or go 
to your local emergency room.

Physical Therapy:
Activity:   Activity:  Out of bed w/ assist
 Right lower extremity:  Touchdown weight bearing
 Left lower extremity:  Full weight bearing
Encourage turning, deep breathing and coughing qhour when awake.

Treatments Frequency:
Remove staples 14 days from date of surgery.
 
Followup Instructions:
___